US08012955B2
To a stirred mixture of 3-chloro-4-(1-(4-methoxybenzyl)piperidin-4-yloxy)benzoic acid in anhydrous dimethylformamide (0.5 mL) was added triethylamine (0.03 g, 0.30 mmol), 1-hydroxybenzotriazole hydrate (0.02 g, 0.15 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.03 g, 0.15 mmol) and 1-benzylpiperidin-4-amine (0.03 mg, 0.15 mmol). The mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The residue obtained was purified by flash chromatography (silica gel, methylene chloride/methanol/30% ammonium hydroxide=15/1/0.05) to afford N-(1-benzylpiperidin-4-yl)-3-chloro-4-(1-(4-methoxybenzyl)-piperidin-4-yloxy)-benzamide as a white solid (0.01 g, 18%). 1H-NMR (CDCl3, 300 MHz): δ 7.76 (m, 1H), 7.60 (m, 1H), 7.30 (m, 7H), 6.94 (m, 1H), 6.87 (m, 2H), 5.83 (d, J=7.2 Hz, 1H), 4.52 (m, 1H), 3.97 (m, 1H), 3.80 (s, 3H), 3.54 (s, 4H), 2.86 (m, 4H), 2.11 (m, 8H), 1.58 (m, 4H); LCMS: >98%; MS (ESI): 548.2 (M+1), 546.2 (M−1).

reactant | 3-chloro-4-(1-(4-methoxybenzyl)piperidin-4-yloxy)benzoic acid | ClC=1C=C(C(=O)O)C=CC1OC1CCN(CC1)CC1=CC=C(C=C1)OC | C20H22ClNO4
reactant | triethylamine | 0.30 mmol, 0.03 g | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 0.15 mmol, 0.02 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.15 mmol, 0.03 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-benzylpiperidin-4-amine | 0.15 mmol, 0.03 mg | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-(1-benzylpiperidin-4-yl)-3-chloro-4-(1-(4-methoxybenzyl)-piperidin-4-yloxy)-benzamide | 0.01 g, 18% | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=CC(=C(C=C1)OC1CCN(CC1)CC1=CC=C(C=C1)OC)Cl)=O | C32H38ClN3O3
